** sch_path: /workspace/project/parity_ceker/testbench/tb_xor.sch
**.subckt tb_xor IN_A Y IN_B
*.ipin IN_A
*.opin Y
*.ipin IN_B
x1 VDD Y IN_A IN_B 0 xor_6t
**** begin user architecture code

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* --- 0. VOLTAGE SOURCES ---
V_SUPPLY VDD 0 1.8
* IN_A period is 40ns, IN_B period is 20ns to test all 4 states (00, 01, 10, 11)
V_A IN_A 0 pulse(0 1.8 1ns 100ps 100ps 19ns 40ns)
V_B IN_B 0 pulse(0 1.8 1ns 100ps 100ps 9ns 20ns)

* --- 1. SIMULATION COMMANDS ---
.tran 10p 100n
.dc V_A 0 1.8 0.01
.save all

.control
  run

  * --- 2. VISUAL THEME (WHITE BACKGROUND) ---
  set color0=white
  set color1=black
  set color2=red
  set color3=blue
  set color4=darkgreen
  set xbrushwidth=3

  * --- 3. TIMING & POWER ANALYSIS ---
  setplot tran1

  * Universal Delay: measures time between first input crossing and first output crossing
  meas tran t_delay trig v(in_a) val=0.9 cross=1 targ v(y) val=0.9 cross=1

  * Power Analysis
  meas tran avg_i avg i(V_SUPPLY)
  let p_dyn = avg_i * 1.8 * -1

  meas tran leak_i find i(V_SUPPLY) at=99n
  let p_stat = leak_i * 1.8 * -1

  let pdp = p_dyn * t_delay

  * --- 4. EXPORT CLEAN REPORT ---
  * Note: Avoid double quotes to prevent Xschem parsing errors
  echo === UNIVERSAL GATE REPORT === > report.txt
  echo Propagation Delay: >> report.txt
  print t_delay >> report.txt
  echo Dynamic Power: >> report.txt
  print p_dyn >> report.txt
  echo Static Power: >> report.txt
  print p_stat >> report.txt
  echo Power Delay Product: >> report.txt
  print pdp >> report.txt

  * --- 5. ADVANCED DATA PROCESSING & RAW EXPORT ---
  setplot tran1
  let inst_power = -i(V_SUPPLY) * 1.8
  let total_energy = integ(inst_power)

  * Export pristine raw simulation data for Gaw / GTKWave
  write universal_gate.raw

  * --- 6. EXPORT PLOTS (SVG) ---
  set hcopydevtype=svg

  * Save DC Sweeps
  setplot dc1
  hardcopy dc_vtc.svg v(y) vs v(in_a) title 'DC: VTC'
  hardcopy dc_gain.svg v(y) vs v(in_a) deriv(v(y)) xl 0 1.8 yl -5 1.8 title 'DC: VTC and Noise Margins'

  * Save Transient Plots (Separated cleanly)
  setplot tran1
  hardcopy tran_inputs.svg v(in_a) v(in_b) title 'Transient: Logic Inputs'
  hardcopy tran_output.svg v(y) title 'Transient: Logic Output'
  hardcopy tran_current.svg -i(V_SUPPLY) title 'Transient: Total Supply Current'
  hardcopy tran_energy.svg total_energy title 'Transient: Cumulative Energy'
  hardcopy tran_leakage.svg -i(V_SUPPLY) yl 0 10n title 'Transient: Static Leakage Zoom'

  * --- 7. SHOW PLOTS ON SCREEN ---
  * DC Plots
  setplot dc1
  plot v(y) vs v(in_a) title 'VTC'
  plot v(y) vs v(in_a) deriv(v(y)) xl 0 1.8 yl -5 1.8 title 'VTC and Noise Margins'

  * Transient Plots (Separated cleanly)
  setplot tran1
  plot v(in_a) v(in_b) title 'Logic Inputs (IN_A, IN_B)'
  plot v(y) title 'Logic Output (Y)'
  plot -i(V_SUPPLY) title 'Total Supply Current (Crowbar & Dynamic)'
  plot total_energy title 'Cumulative Energy Consumption'
  plot -i(V_SUPPLY) yl 0 10n title 'Static Leakage Current Zoom'
.endc

**** end user architecture code
**.ends

* expanding   symbol:  schematic/xor_6t.sym # of pins=5
** sym_path: /workspace/project/parity_ceker/schematic/xor_6t.sym
** sch_path: /workspace/project/parity_ceker/schematic/xor_6t.sch
.subckt xor_6t VDD Y A B GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
*.ipin B
XM1 net1 A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM2 net1 A GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM3 Y B A VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XM4 Y B net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM5 Y A B VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XM6 Y net1 B GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.end
